US07001887B2
N-(Benzylsulfonyl)-D-isoleucyl-N1-{4-[imino-(methylthio)methyl]benzyl}-L-methioninamide (49 mg, 0.084 mmol) was dissolved in dichloromethane (2 ml) and methanol (2 ml), to which hydrazine (0.020 ml, 0.624 mmol) was then added and stirred for 18 hours. The solvent was distilled off under reduced pressure and the residue was purified by preparative HPLC to give N-(benzylsulfonyl)-D-isoleucyl-N1-{4-[hydrazino(imino)methyl]benzyl}-L-methioninamide (29 mg, 0.051 mmol; yield 61%).

reactant | N-(Benzylsulfonyl)-D-isoleucyl-N1-{4-[imino-(methylthio)methyl]benzyl}-L-methioninamide | 0.084 mmol, 49 mg | C(C1=CC=CC=C1)S(=O)(=O)N[C@H]([C@H](C)CC)C(=O)N[C@@H](CCSC)C(=O)NCC1=CC=C(C=C1)C(SC)=N | C27H38N4O4S3
reactant | hydrazine | 0.624 mmol, 0.020 ml | NN | H4N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | N-(benzylsulfonyl)-D-isoleucyl-N1-{4-[hydrazino(imino)methyl]benzyl}-L-methioninamide | 0.051 mmol, 29 mg, yield 61% | C(C1=CC=CC=C1)S(=O)(=O)N[C@H]([C@H](C)CC)C(=O)N[C@@H](CCSC)C(=O)NCC1=CC=C(C=C1)C(=N)NN | C26H38N6O4S2
